US07429609B2
3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile
To a solution of 5.8 g of 3-iodo-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile in 70 mL of dichloromethane were added 13.1 mL of diisopropylethylamine, 2.4 g of tetra-n-butylammonium iodide and 12.0 g of trityl chloride at room temperature, and stirred at this temperature for a day. The solution was evaporated, diluted with ethyl acetate, washed successively with saturated ammonium chloride and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10), to afford 5.2 g of the title compound as colorless crystals.

reactant | 3-iodo-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile | 5.8 g | IC1=NNC2=CN=C(C=C21)C#N | C7H3IN4
reactant | diisopropylethylamine | 13.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trityl chloride | 12.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
catalyst | tetra-n-butylammonium iodide | 2.4 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-Iodo-1-trityl-1H-pyrazolo[3,4-c]pyridine-5-carbonitrile | 5.2 g | IC1=NN(C2=CN=C(C=C21)C#N)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H17IN4
